US04051256
8-[3-(p-Chlorophenyl)thioureido]tetracyclo[4,3,0,02,4,03,7 ]nonane (0.30 g.) was dissolved in ethanol saturated with ammonia (100 ml.) at room temperature and stirred with yellow mercuric oxide (0.43 g.) for 6 hours. The mixture was then boiled for 15 minutes to remove excess ammonia, filtered and the filtrate evaporated to dryness. The solid residue was recrystallised from toluene/cyclohexane (1:2 v/v) to give 8-[3-(p-chlorophenyl)guanidino]tetracyclo[4,3,0,02,4,03,7 ]nonane, m.p. 170°-171°.

reactant | 8-[3-(p-Chlorophenyl)thioureido]tetracyclo[4,3,0,02,4,03,7 ]nonane | 0.30 g | ClC1=CC=C(C=C1)NC(NC1C2C3CC4C2C4C3C1)=S | C16H17ClN2S
reactant | ammonia | 100 ml | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 8-[3-(p-chlorophenyl)guanidino]tetracyclo[4,3,0,02,4,03,7 ]nonane | ClC1=CC=C(C=C1)NC(NC1C2C3CC4C2C4C3C1)=N | C16H18ClN3
